US03962224
A solution of 2,2,2-trichloroethyl α-thioformamidodiethylphosphonoacetate (3.87 g.) in acetone (50 ml.) is treated with powdered potassium carbonate (4.15 g) and 1-chloro-3-methoxymethyloxy-propan-2-one (1.60 g.). The mixture is stirred for 4 hrs. at room temperature under a nitrogen atmosphere, then filtered. Evaporation of the filtrate leaves a residue which is dissolved in methylene chloride. The solution is washed with dilute aqueous dipotassium hydrogen phosphate and water, dried over magnesium sulfate, filtered and evaporated in vacuo affording 2,2,2-trichloroethyl 5-methoxymethyloxymethyl-6H-1,3-thiazine-4-carboxylate.

reactant | 2,2,2-trichloroethyl α-thioformamidodiethylphosphonoacetate | 3.87 g | C(=S)NC(C(=O)OCC(Cl)(Cl)Cl)P(=O)(OCC)OCC | C9H15Cl3NO5PS
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-methoxymethyloxy-propan-2-one | 1.60 g | ClCC(COCOC)=O | C5H9ClO3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloroethyl 5-methoxymethyloxymethyl-6H-1,3-thiazine-4-carboxylate | COCOCC1=C(N=CSC1)C(=O)OCC(Cl)(Cl)Cl | C10H12Cl3NO4S
